US05192786
To a suspension of sodium hydride (60%, 1.5 g, 38 mmol) in 200 ml dimethylformamide was added p-hydroxystilbene (5 g, 25 mmol), portionwise. The mixture was stirred at room temperature for 2 hours and 1-bromo-4-chlorobutane (4.4 mL, 38 mmol) was added. The mixture was then stirred at room temperature overnight. The reaction was quenched with methanol (10 mL) and filtered through Celite®. The filtrate was taken up in ether (250 mL), washed thrice with water (150 mL) and dried over sodium sulfate. The solution was concentrated to give 8.2 g (75%) of (E)-4-chlorobutoxystilbene as an amber oil. 1H NMR (CDCl3): δ7.62-6.81 (m,11H), 4.02 (t,2H), 3.63 (t,2H), 1.99 (m,4H).

reactant | sodium hydride | 38 mmol, 1.5 g | [H-].[Na+]
reactant | p-hydroxystilbene | 25 mmol, 5 g | C1=CC=C(C=C1)/C=C/C2=CC=C(C=C2)O | C14H12O
reactant | 1-bromo-4-chlorobutane | 38 mmol, 4.4 mL | BrCCCCCl | C4H8BrCl
reactant | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (E)-4-chlorobutoxystilbene | 8.2 g, 75% | ClCCCCOC1=C(C=CC=C1)\C=C\C1=CC=CC=C1 | C18H19ClO
